Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
___ placement

 
History of Present Illness:
___ year old man with a history of IVDA, prior endocarditis 
complicated by septic emboli to lungs who presented for 
evaluation of recurrent PE and empyema. Patient was diagnosed 
with endocarditis this past ___, report recent hospital 
admission for pulmonary embolism in ___ now on warfarin for 
anticoagulation. Patient states the past 2 weeks he has felt 
increasingly fatigued and tired, and began having hemoptysis 
yesterday. Presented to ___, where a repeat CT chest shows new 
versus persistent right lower lobe thromboembolism complicated 
by likely lobe necrosis and empyema. His INR was also noted to 
be 13.7 so he was given 2U FFP and 10mg vit K prior to transfer. 


In the ED, he reported chest pain several cups worth of 
hemoptysis today. Over the last 2 weeks he reported feeling 
increasingly fatigued, tired, and progressively worsening right 
sided chest pain. ECG showed sinus tachycardia. 3 sets of blood 
cultures were drawn. 
His labs were notable for a WBC 12.8 and INR 5.1. 

On arrival to the MICU, the patient appears comfortable without 
active hemoptysis. He states that his symptoms began about ___ 
weeks soon after stopping his methadone. He reports 
progressively worsening right sided chest pain worse with deep 
breath, night sweats, fevers, chills, cough, foul smelling and 
tasting sputum, weakness, fatigue, decreased appetite, and 
weight loss.
 
Past Medical History:
___: septic emboli from tricuspid endocarditis  
___: admitted to ___ with PE vs septic emboli 
Pneumonia  
Hepatitis C 
Asthma
MSSA UTI ___

 
Social History:
___
Family History:
Grandmother died of COPD. Father died of brain aneurysm with hx 
alcoholism, CAD, and COPD.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Physical Exam:  
Vitals: T: 100.0 BP: 123/79 P: 117 R: 26 O2: 96% ra  
General: comfortable
HEENT: no scleral icterus, EMOI, PERRLA
CV: tachy, S1S2, no m/r/g
Lungs: significantly decreased lung sounds on the right 
Abdomen: soft, nontender, nondistended
Ext: no ___ edema, no splinter hemorrhages 
Neuro: CN II-XII grossly in tact, moving all extremities 

DISCHARGE PHYSICAL EXAM:
General: awake, alert, NAD
CV: RRR, no m/r/g  
Lungs: significantly decreased lung sounds on the right, 
otherwise reasonably CTA  
Abdomen: +BS, soft, NT/ND
Ext: WWP, no edema 

 
Pertinent Results:
ADMISSION LABS:
___ 12:06AM BLOOD WBC-12.8* RBC-3.85* Hgb-9.9* Hct-31.3* 
MCV-81* MCH-25.6* MCHC-31.6 RDW-15.0 Plt ___
___ 12:06AM BLOOD Neuts-65.8 ___ Monos-5.0 Eos-1.8 
Baso-0.5
___ 12:06AM BLOOD ___ PTT-51.5* ___
___ 12:06AM BLOOD Glucose-106* UreaN-7 Creat-0.6 Na-140 
K-3.6 Cl-101 HCO3-26 AnGap-17
___ 05:43AM BLOOD ALT-25 AST-11 AlkPhos-52 TotBili-0.3
___ 05:43AM BLOOD Albumin-3.4* Calcium-8.8 Phos-4.7* Mg-1.8
___ 12:06AM BLOOD Iron-18*
___ 12:06AM BLOOD calTIBC-200* Ferritn-490* TRF-154*
___ 12:06AM BLOOD Lactate-1.0

SEROLOGIES:
___ 08:50AM BLOOD HBsAg-NEGATIVE HBsAb-BORDERLINE 
HBcAb-NEGATIVE
___ 07:00AM BLOOD HIV Ab-NEGATIVE

DISCHARGE LABS: 
___ 05:31AM BLOOD WBC-12.0* RBC-3.35* Hgb-8.6* Hct-27.4* 
MCV-82 MCH-25.5* MCHC-31.3 RDW-17.0* Plt ___
___ 05:31AM BLOOD ___ PTT-31.4 ___
___ 04:38AM BLOOD Glucose-96 UreaN-16 Creat-2.4* Na-144 
K-4.2 Cl-106 HCO3-28 AnGap-14
___ 05:31AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.1
___ 05:50AM BLOOD ALT-11 AST-11 AlkPhos-54 TotBili-0.3
___ 04:38AM BLOOD Vanco-22.1*

MICROBIOLOGY:
Blood cultures x4 - No growth, FINAL
Blood cultures x4 - PENDING, no growth to date

IMAGING: 
___ Cardiac Echo(TTE): The left atrium and right atrium are 
normal in cavity size. Left ventricular wall thickness, cavity 
size, and global systolic function are normal (LVEF>55%). 
Transmitral and tissue Doppler imaging suggests normal diastolic 
function, and a normal left ventricular filling pressure 
(PCWP<12mmHg). There is no left ventricular outflow obstruction 
at rest or with Valsalva. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve leaflets are mildly thickened. No masses or vegetations 
are seen on the mitral valve, but cannot be fully excluded due 
to suboptimal image quality. Physiologic mitral regurgitation is 
seen (within normal limits). The tricuspid valve leaflets are 
mildly thickened. There is a probable vegetation on the 
tricuspid valve. There is no pericardial effusion. 
IMPRESSION: Normal regional and global biventricular systolic 
function. There is a small echodensity seen on the tricuspid 
valve - see images 52-56. This could represent a vegetation or 
thickened valve/chord. A TEE could be done to help clarify. No 
abscess seen. No significant valvular regurgitation seen. 

___ CTA Chest: IMPRESSION: 1.  Calcification within the right 
posterior basal segmental pulmonary artery with occlusion of the 
artery distally - these features are suggestive of chronic 
pulmonary embolism.  No acute PE is identified.  2.  Necrotizing 
pneumonia involving the right lower lobe with surrounding 
abscess formation.  The appearances are similar to the previous 
CT.   3.  Multiple nodular opacities within the right middle, 
inferior segment of the left upper and the basal segments of 
left lower lobes.  In conjunction with the clinical history, 
these features are suggestive of septic emboli.  4.  Mediastinal 
and right hilar adenopathy which is likely reactive.   

___ Cardiac Echo (TEE): No spontaneous echo contrast or 
thrombus is seen in the body of the left atrium/left atrial 
appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect or patent foramen ovale is 
seen by 2D, color Doppler or saline contrast with maneuvers. 
Left ventricular systolic function is hyperdynamic (EF>75%). 
Right ventricular chamber size and free wall motion are normal. 
The ascending, transverse and descending thoracic aorta are 
normal in diameter and free of atherosclerotic plaque to 34 cm 
from the incisors. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion. There are three 
aortic valve leaflets. No masses or vegetations are seen on the 
aortic valve. There are filamentous strands on the aortic 
leaflets consistent with Lambl's excresences (normal variant). 
No aortic valve abscess is seen. No aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. No mass 
or vegetation is seen on the mitral valve. No mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is no pericardial effusion. 
IMPRESSION: No 2D echocardiographic evidence of endocarditis. No 
significant valvular regurgitation.

___ Renal U/S: IMPRESSION:  Echogenic kidneys consistent with 
medical renal disease.  No vascular abnormality seen. 

 
Brief Hospital Course:
___ year old male with PMH presumed MSSA tricuspid valve 
endocarditis and PE presenting with right lung abscess and 
possible necrosis.

Active issues: 
___: Patient noted to have elevation of his Cr to 2.6 on ___ 
which peaked at 2.8 on ___. Baseline Cr is 0.6-0.7. This is of 
unclear etiology. Patient had no episodes of hypotension, urine 
microscopy was unremarkable (few granular casts, no other 
findings) and renal U/S was unrevealing (no evidence for 
thrombus/emboli).  Pt was clinically euvolemic and no 
improvement with IVF. Possibly related to contrast though timing 
not perfect. At time of discharge, Cr was downtrending to 2.4.

# Lung abscess: History of recent PE on coumadin with symptoms 
and imaging consistent with likely lung abscess. He had a CT 
scan that showed a right lung abscess with air fluid level. He 
was placed on vanco and zosyn and ID was consulted. They 
recommended ___ weeks of IV antibiotics. CT surgery was also 
consulted who ultimately felt that surgery was not appropriate 
in the acute setting. It appears that the abscess is draining 
through his airway at this time. Thoracics will see the patient 
as an outpt to evaluate for possible surgical options after 
___ of antibiotics. Patient should obtain repeat CT Chest 
scan prior to stopping antibiotics. In the setting of his ___ 
(see above), pt's Zosyn dose was reduced to 2.25g q8 hrs from 
4.5g q8hrs and his Vancomycin was reduced to 1000mg q48 hours 
from 1250mg IVq8hrs. As his kidney function improves, his 
antibiotic dosing will need adjustments. 

# Hemoptysis: Likely ___ PE and lung abscess complicated by 
supratherapeutic INR which was improving by time of admission to 
the MICU with FFP and vitamin K. He never had any evidence of 
active bleeding and was felt to be stable for the floor.

# Septic pulmonary emboli: Right-sided PEs noted on imaging and 
patient being treated with coumadin on admission. Patient taking 
Keflex since the diagnosis of PE was made. The OSH felt the PE 
could be septic emboli so he was being treated with Keflex 
prophylactically. Given the above hemoptysis his anticoagulation 
was held during his MICU course. In further review of OSH 
records (including LENIs which showed no DVTs) and conversation 
with ID and ICU team, it was felt that these all represent 
septic emboli and not thrombotic disease. As a result, pt was 
kept off anticoagulation and discharged without warfarin or 
alternative blood thinner.  

# Endocarditis: Recent history of TV endocarditis that was 
treated with 6 weeks of IV nafcillin. Patient did not have any 
signs on admission, but blood cultures were drawn and came back 
negative. He had a cardiac echo that showed possibly a small 
vegetation on his TV; however, TEE revealed no vegetations and 
he was felt to have cleared any evidence of active endocarditis. 


Chronic issues: 
# Anemia: Unclear if chronic or acute. Given the illness over 
the last several months, likely chronic related to inflammation. 
However, given the hemoptysis could also be related to blood 
loss.  Iron studies were checked and were not abnormal. Over the 
course of his hospitalization his blood counts remained stable. 
He was started back on his home iron supplement on discharge.

# IVDA: Complicated social situation with long hx of drug abuse 
and recent withdrawal from stopping methadone. Patient's mother 
involved and concerned about addiction problems.  He was seen by 
social work, but the patient declined to speak with them. 
Attempts were made to limit narcotics and benzos after his 
mother reported that she felt that he was abusing them more than 
he should on prior admissions. He was continued on his home 
oxycodone and xanax with good effect. He did not ask for 
additional medications during the course of his hospitalization. 


# Depression: He was continued on his home citalopram, 
alprazolam and mirtazapine.

Transitional Issues:
# Emergency contact: Patient, Mother ___ ___ 
 
# Code: Full  
# Patient would benefit from Hepatitis B booster vaccination as 
Hep B surface antibody was low (only borderline positive). 
# Patient will need to complete ___ weeks of IV antibiotics. 
Exact course to be determined by infectious disease.
# Needs at least weekly lab draw while on antibiotics: Vanco 
trough, CBC, BUN/Cr, LFTs
# Continued social support regarding sobriety 
# Should NOT be discharged to home with a PICC line in place
# Patient should have repeat CT Chest in ___ weeks prior to 
discontinuing antibiotics
# Will follow-up with thoracic surgery as may need surgical 
intervention to fully eradicate infection
# Will need close monitoring of kidney function and Vanco 
troughs in the next week to appropriately adjust his antibiotics 
and ensure appropriate coverage given the serious nature of the 
infection and his rapidly changed kidney function. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cephalexin 500 mg PO Q8H 
2. Citalopram 30 mg PO DAILY 
3. Warfarin 2.5 mg PO DAILY16 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Mirtazapine 15 mg PO DAILY 
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
7. ALPRAZolam 0.5 mg PO TID:PRN anxiety 

 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
2. Citalopram 30 mg PO DAILY 
3. Mirtazapine 15 mg PO DAILY 
4. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Acetaminophen 1000 mg PO Q6H:PRN Pain, fevers 
7. Benzonatate 100 mg PO TID 
8. Guaifenesin-Dextromethorphan ___ mL PO Q6H:PRN cough 
9. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
10. Nicotine Patch 21 mg TD DAILY 
11. Outpatient Lab Work
Please draw Vanco trough, CBC, BUN/Cr, LFTs daily for the next 
week. If kidney function improves and Vanco troughs are stable, 
can go to weekly. 

12. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN sob/congestion 
13. Docusate Sodium 100 mg PO BID 
14. Piperacillin-Tazobactam 2.25 g IV Q8H 
15. QUEtiapine Fumarate 50-100 mg PO QHS:PRN insomnia 
16. Vancomycin 1000 mg IV Q48H 
17. Zolpidem Tartrate ___ mg PO HS:PRN insomnia 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Lung abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___. You were admitted 
because you were coughing up blood. A CT scan of your chest 
revealed a large abscess (fluid collection) that is due to 
bacteria traveling from your heart valve infection to your 
lungs. We started you on strong, broad antibiotics and you were 
seen by the pulmonology team (the lung doctors), the infectious 
disease doctors and the thoracic surgeons. Your symptoms 
improved with the IV antibiotics but you continue to have cough 
and pain with deep breaths. We also performed ultrasounds of 
your heart (TTE and TEE) which revealed that the infection on 
your heart valve has resolved. You will need ___ weeks of 
antibiotics for this serious infection. A repeat CT scan of your 
chest will be arranged prior to the end of your antibiotic 
course.

We also tested you for Hepatitis B during this admission. It 
showed that you have been immunized (vaccinated) against 
Hepatitis B. However, the strength of your immunity is low. You 
would benefit from booster vaccination as an outpatient. Please 
discuss this with your primary care provider. 

Finally, there a decrease in your kidney function. We monitored 
your kidney function and it was improving at time of discharge. 
Your doctors at your ___ facility will continue to monitor your 
kidney function and the level of antibiotics (the vancomycin) in 
the blood to ensure you are properly treated. 
 
Followup Instructions:
___